US03996381
EXAMPLE 11. 2,6-DICHLORO-4-DIMETHYLAMINO-α-METHYLPHENETHYLAMINE DIHYDROCHLORIDE (METHOD A)
A solution of 13.7 g of N,N-dimethyl-3,5-dichloro-4-(2-nitropropenyl)aniline in 150 ml of dry tetrahydrofuran is added dropwise with stirring to 8.0 g lithium aluminum hydride in 200 ml of dry ether. The mixture is then refluxed for 4 hours. 40 ml of saturated sodium sulphate solution is added dropwise and the mixture is filtered. The filtrate is dried over anhydrous sodium sulphate and acidified with hydrogen chloride. The precipitated salt is filtered off and washed with ether. Yield: 15.2 g, m.p. 195°-197°. The product is recrystallized from aqueous ethanol-isopropyl ether. Yield: 11.9 g, m.p. 199°-200°.

reactant | N,N-dimethyl-3,5-dichloro-4-(2-nitropropenyl)aniline | 13.7 g | CN(C1=CC(=C(C(=C1)Cl)C=C(C)[N+](=O)[O-])Cl)C | C11H12Cl2N2O2
reactant | lithium aluminum hydride | 8.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate | 40 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,6-DICHLORO-4-DIMETHYLAMINO-α-METHYLPHENETHYLAMINE DIHYDROCHLORIDE | Cl.Cl.ClC1=C(CC(C)N)C(=CC(=C1)N(C)C)Cl | InChI=1S/C11H16Cl2N2.2ClH/c1-7(14)4-9-10(12)5-8(15(2)3)6-11(9)13;;/h5-7H,4,14H2,1-3H3;2*1H
